US04220654
Following the procedure of Example 12B, using 9.26 g. of 2-propionyl-4-nitrothiophene and 7.99 g. of bromine in 100 ml. of methylene chloride, there is obtained 13.0 g. of product m.p. 79°-82° C. which is recrystallized from ethanol affording 2-(2-bromopropionyl)-4-nitrothiophene m.p. 82.5°-83° C.

reactant | 2-propionyl-4-nitrothiophene | C(CC)(=O)C=1SC=C(C1)[N+](=O)[O-] | C7H7NO3S
reactant | bromine | BrBr | Br2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(2-bromopropionyl)-4-nitrothiophene | BrC(C(=O)C=1SC=C(C1)[N+](=O)[O-])C | C7H6BrNO3S
